US08022249B2
Step D: Preparation of 2-[3-(2,6-Dimethylbenzyloxy)phenyl]acetamide
To a stirred solution of 3-(2,6-Dimethylbenzyloxy)phenylacetic acid (3.08 g, 11.4 mmol) and Benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate (5.05 g, 11.4 mmol) in DMF (75 ml) was added triethylamine (2.30 g, 22.8 mmol), and the reaction mixture was stirred for 1 h at room temperature. To this reaction mixture was added liquid ammonia (100 ml) at −40 0° C., the resulting mixture was allowed to warm to ambient temperature over 10-12 hours and concentrated. The residue was taken into ethyl acetate and washed with water (2×), dried over Na2SO4, filtered, concentrated and purified by flash chromatography on a silica gel column (ethyl acetate:hexane, 2.5:1 spiked with acetic acid) to give the title compound.

reactant | 3-(2,6-Dimethylbenzyloxy)phenylacetic acid | 11.4 mmol, 3.08 g | CC1=C(COC=2C=C(C=CC2)CC(=O)O)C(=CC=C1)C | C17H18O3
reactant | Benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate | 11.4 mmol, 5.05 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 22.8 mmol, 2.30 g | C(C)N(CC)CC | C6H15N
reactant | ammonia | 100 ml | N | H3N
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 2-[3-(2,6-Dimethylbenzyloxy)phenyl]acetamide | CC1=C(COC=2C=C(C=CC2)CC(=O)N)C(=CC=C1)C | C17H19NO2
